US07694739B2
1 g oleic acid
220 g HALAD™ 344 (water soluble polymer)

reactant | HALAD | 220 g | COC1=C(C=CC(=C1)/C=C/C(=O)CC(=O)/C=C/C2=CC(=C(C=C2)O)OC)O | C21H20O6
reactant | water | O | H2O
product | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
